US05112841
(1) o-Ethoxycarbonylbenzamidoxime
Following the known process [Ber, 18, 2467 (1875)], a solution of 13.4 ml (0.14 mol) of ethyl chlorocarbonate in 100 ml of chloroform was added dropwise to a solution of 38.2 g (0.28 mol) of benzamidoxime hydrochloride in 380 ml of chloroform. After completion of the dropwise addition, the reaction mixture was stirred at room temperature for 3 hours. The benzamidoxime thus precipitated was filtered off and the filtrate was concentrated under reduced pressure. The residue was dissolved in 100 ml of ethyl alcohol, to which 30 ml, of water were added. Most ethyl alcohol was then distilled off under reduced pressure. Crystals thus formed were collected by filtration, washed with water and then dried under reduced pressure, whereby the title compound was obtained as colorless crystals.

reactant | ethyl chlorocarbonate | 0.14 mol, 13.4 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | benzamidoxime hydrochloride | 0.28 mol, 38.2 g | Cl.C(C1=CC=CC=C1)(N)=NO
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 380 ml | C(Cl)(Cl)Cl | CHCl3
product | o-Ethoxycarbonylbenzamidoxime | C(C)OC(=O)C1=C(C(N)=NO)C=CC=C1 | C10H12N2O3
